US06482951B2
To a stirred solution of borane.tetrahydrofuran complex (70 mL of 1.5 M solution in tetrahydrofuran/diethyl ether) cooled to 0° C. under nitrogen was added a solution of 4-nitrophthalic acid (7.01 g; 33.2 mmol) in tetrahydrofuran (50 mL) dropwise over a 20 minute period. At the end of the addition, the mixture was allowed to stir for 3.5 h at 0° C. The mixture was allowed to warm to room temperature and then refluxed for 18 h. The mixture was allowed to cool to room temperature, quenched with methanol and concentrated in vacuo. The residue was taken up into ethyl acetate, washed with saturated sodium bicarbonate solution followed by brine solution. The organic extract was dried (sodium sulfate), filtered and concentrated in vacuo to give 5.61 g (92%) of 4-nitro-1,2-di-hydroxymethyl benzene as a white solid: ES-LRMS calcd for C8H8NO4 (M+−1) 182, found 182.

reactant | borane | B | BH3
reactant | 4-nitrophthalic acid | 33.2 mmol, 7.01 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5NO6
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 M, 70 mL | O1CCCC1 | C4H8O
product | 4-nitro-1,2-di-hydroxymethyl benzene | 5.61 g, 92% | [N+](=O)([O-])C1=CC(=C(C=C1)CO)CO | C8H9NO4
